US05135953
Into a 500 milliliter Parr bottle was charged 4-(4-chloro-1-naphthoxy)-3,5-dichloronitrobenzene (15.84 grams, 42.97 mmol) prepared in Part A and toluene (250 milliliters). The bottle was purged thoroughly with nitrogen and 5% platinum on carbon (0.50 grams) was added immediately following the purge. The reaction mixture was then hydrogenated for 1.5 hours on a rocking Parr hydrogenator at a pressure of 90-100 psi hydrogen at ambient temperature. The reaction mixture was filtered through a pad of celite and the filtrate concentrated under reduced pressure to afford pure 4-(4-chloro-1-naphthoxy)-3,5-dichloroaniline (13.99 grams, 41.31 mmol, 96%) as a white solid having a melting point of 145° C.-147° C. Elemental analysis of the white solid indicated the following:

reactant | 4-(4-chloro-1-naphthoxy)-3,5-dichloronitrobenzene | 42.97 mmol, 15.84 grams | ClC1=CC=C(C2=CC=CC=C12)OC1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl | C16H8Cl3NO3
solvent | toluene | 250 milliliters | C1(=CC=CC=C1)C | C7H8
product | 4-(4-chloro-1-naphthoxy)-3,5-dichloroaniline | 41.31 mmol, 13.99 grams, 96% | ClC1=CC=C(C2=CC=CC=C12)OC1=C(C=C(N)C=C1Cl)Cl | C16H10Cl3NO
